US05977133
A sample of 4-t-butoxy-2,5-difluoro-3-methylpyridine (40.8 mmol) was dissolved in 50 mL of THF and cooled to -78° C. To this was added a freshly prepared solution of LDA (0.103 mmol) in 50 mL of THF at -78° C,, and the reaction was stirred for 1 hour. The reaction was then stirred at 0° C. for 1 hour, quenched with saturated NH4Cl solution and extracted with ether. The extracts were washed with saturated NaCl solution, dried over MgSO4, and concentrated. The residue was purified by flash chromatography, eluting with 1:4 ethyl acetate:hexane, to yield 10.33 g of 2-(4-t-butoxy-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile after removal of the solvent. MS 263 (M+H)+ ; 1H NMR (CDCl3)∂: 0.50 (m, 2H), 0.63 (m, 1H), .73 (m, 1H), 1.60 (m, 1H), 1.43 (d, 9H, J=2 Hz), 2.29 (s, 3H), 3.76 (d, 1H, J=8 Hz), 8.30 (d, 1H, J=3 Hz). IR (neat) 2240, 1580, 1470 cm-l.

reactant | 4-t-butoxy-2,5-difluoro-3-methylpyridine | 40.8 mmol | C(C)(C)(C)OC1=C(C(=NC=C1F)F)C | C10H13F2NO
reactant | LDA | 0.103 mmol | [Li+].CC(C)[N-]C(C)C
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-t-butoxy-5-fluoro-3-methyl-2-pyridinyl)cyclopropaneacetonitrile | 10.33 g | C(C)(C)(C)OC1=C(C(=NC=C1F)C1C(C1)CC#N)C | C15H19FN2O
